US07691877B2
2,6-dibromo-4-nitro pyridine 1-oxide
2,6-dibromo pyridine 1-oxide (10 g, 39.5 mmol) was added to 65 mL of concentrated sulfuric acid at room temperature without cooling. Concentrated sulfuric acid (15 ml) and nitric acid (13.3 ml) were mixed and placed in a pressure equalising dropping funnel. The reaction mixture was heated to 79° C. then the nitrating mixture was added in portions over 25 minutes. When the addition was complete the mixture was stirred at 83-85° C. for 3.5 hours. The mixture was cooled to room temperature and slowly poured onto ˜250 g crushed ice. A very pale yellow solid formed which was filtered off and washed with water (100 ml), dried in vacuum oven at 50° C. overnight to give 10.9 g of the title compound.

reactant | 2,6-dibromo pyridine 1-oxide | 39.5 mmol, 10 g | BrC1=[N+](C(=CC=C1)Br)[O-] | C5H3Br2NO
reactant | sulfuric acid | 65 mL | S(O)(O)(=O)=O | H2O4S
reactant | sulfuric acid | 15 ml | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | 13.3 ml | [N+](=O)(O)[O-] | HNO3
product | 2,6-dibromo-4-nitro pyridine 1-oxide | 10.9 g | BrC1=[N+](C(=CC(=C1)[N+](=O)[O-])Br)[O-] | C5H2Br2N2O3
